2183-04-10 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-4-9**] 11:19 AM
 NUCLEAR MEDICINE - At [**2183-4-9**] 08:01 PM
   - Bleeding scan (+)- IR still deferred angiography to AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-4-10**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-10**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 86 (76 - 99) bpm
   BP: 113/53(65) {104/47(61) - 136/86(93)} mmHg
   RR: 0 (0 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    295 mL
                                                                    287 mL
   PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    285 mL
                                                                    287 mL
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                     87 mL
   Respiratory support
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   VS: T 96.3, HR 79, RR 10, BP 127/64, O2 98% on RA
   GEN: appears comfortable, friendly
   SKIN:No rashes or skin changes noted
   HEENT:  L eyelid slightly erythematous and partially shut, not swollen,
   no conjunctival injection, JVP not elevated.
   CHEST: distant breath sounds, lungs clear b/l
   CARDIAC: faint heart sounds, 3/6 systolic murmur, regular
   ABDOMEN: obese, no scars, soft, nontender, normoactive bowel sounds, no
   rebound/guarding
   EXTREMITIES: trace bilateral edema to ankles, warm without
   Labs / Radiology
   208 K/uL
   11.2 g/dL
   77 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   140 mEq/L
   33.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2183-4-9**]  10:44 AM
                             [**2183-4-9**]  03:01 PM
                             [**2183-4-9**]  07:59 PM
                             [**2183-4-10**]  01:54 AM
                             [**2183-4-10**]  04:55 AM
   WBC
   7.0
   7.7
   Hct
   32.6
   30.7
   33.4
   31.9
   33.6
   Plt
   232
   208
   Cr
   0.7
   0.8
   Glucose
   84
   77
   Other labs: PT / PTT / INR:13.5/31.0/1.2, Differential-Neuts:79.2 %,
   Lymph:13.3 %, Mono:4.5 %, Eos:2.4 %, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 11319**] is an 88 yo man with a hx afib not anticoagulated who
   presents with lrecurrent lower GI bleeding.
   .
   # GI bleed: Recently bled earlier this morning per report from OSH.  No
   bleeding currently, patient hemodynamically stable.  Bleeding is likely
   secondary to diverticuli visualized on recent colonoscopy.
   - NPO
   - active T&C 4 units
   - 2 x PIV
   - pantoprazole 40 mg IV bid
   - stat Hct and q4h Hct for now
   - IR contact[**Name (NI) **]:  will consent for angiographic embolization, however,
   if stable plan will be to do pRBC scan to better visualize site of
   bleeding
   - continue to hold warfarin, ASA
   - hold diltizaem until active bleeding definitively resolves
   - notify GI of admission
   - obtain OSH colonoscopy report from [**4-8**]
   .
   # atrial fibrillation: rate controlled afib, rate 80s
   - continue to hold anticoagulation
   - hold rate control agents given potential for hemodynamic instability
   with GI bled, current normal rate
   .
   # hypothyroidism:
   - continue home dose of levothyroxine
   .
   # FEN: IVF vs blood pending Hct / replete lytes prn / NPO
   # PPX: PPI as above, pneumoboots
   # ACCESS: PIV (18g, 20g)
   # CODE:  Full, discussed
   # CONTACT: [**First Name4 (NamePattern1) **] [**Known lastname 11319**]
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 2852**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-4-10**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2183-04-10 09:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo w/ afib (hx ablation) off anticoag due to likely diverticular
   bleed mid-late [**Month (only) **] at [**Hospital1 **]-[**Location (un) 78**], readmitted there on [**4-6**] w/
   persistent hematochezia. Transferred for poss IR intervention.
   24 Hour Events:
   (1) OSH clarified w/ OSH GI specialist- pt underwent colonoscopy on [**4-8**]
   and descending colon bleed was seen which was injected w/ epi and
   resulting hemostasis was seen
   (2) Developed increased hematochezia, went for tagged rbc scan which
   was positive, but after discussion w/ IR decision was made to monitor
   closely but intervention deferred. Tranfused total 2u prbc since
   admission (7u overall).
   (3) This am w/ large amt hematochezia.
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-4-10**] 01:00 AM
   Other medications:
   Synthroid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-10**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 86 (76 - 99) bpm
   BP: 113/53(65) {104/47(61) - 136/86(93)} mmHg
   RR: 0 (0 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    295 mL
                                                                    287 mL
   PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    285 mL
                                                                    287 mL
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                     87 mL
   Respiratory support
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, mild L conjunctival injection
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   208 K/uL
   77 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   140 mEq/L
   33.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2183-4-9**]  10:44 AM
                             [**2183-4-9**]  03:01 PM
                             [**2183-4-9**]  07:59 PM
                             [**2183-4-10**]  01:54 AM
                             [**2183-4-10**]  04:55 AM
   WBC
   7.0
   7.7
   Hct
   32.6
   30.7
   33.4
   31.9
   33.6
   Plt
   232
   208
   Cr
   0.7
   0.8
   Glucose
   84
   77
   Other labs: PT / PTT / INR:13.5/31.0/1.2, Differential-Neuts:79.2 %,
   Lymph:13.3 %, Mono:4.5 %, Eos:2.4 %, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Imaging: Tagged rbc scan- positive for sigmoid vs descending colon
   bleed
   Assessment and Plan
   88 yo w/ afib (hx ablation) off anticoag due to likely diverticular
   bleed mid-late [**Month (only) **] at [**Hospital1 **]-[**Location (un) 78**], readmitted there on [**4-6**] w/
   persistent hematochezia. Transferred for poss IR intervention.
   1. Hematochezia- likely diverticular bleed, continues w/ inappropriate
   bump to PRBC transfusion but hemodynamic stability. Pos tagged rbc scan
   but intervention deferred overnight for stability. today w/ another
   large bout of hematochezia
   -will ask IR to intervene today given bleeding refractory to
   conservative measures or prior colonoscopic intervention
   -has PIV x2 (20g) for access; will place third line (PIV or midline)
   -T&C, serial hcts q4 today
   -GI services notified
   -holding anticoag
   2. Afib- rate controlled, off anticoag d/t #1
   -holding rate control for poss hemodynamic instability
   3. Hypothyroid- cont Synthroid
   4. Poss L eye conjunctivitis- scant clear discharge
   -prn artificial tears
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-4-10**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 6181**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   88 yo man with LGIB.  Had bloody BMs last night with positive red cell
   scan.  Repeat bloody BM today.  Went to get CTA of abdomen which was
   negative.  So now just watching him.
   Exam:  Pleasant elderly man.  Lungs: CTA, CV: irreg, abd: soft, ext: no
   edema
   Hct: 33.6
   A/P
   Continued intermittent LGIB.  Unable to get IR embolization as bleed is
   too slow, so will continue watching.  If bleeds again, will get another
   RBC scan.
   Afib: rate controlled
   Anemia: stable after 1 Unit this morning.
   CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2183-4-10**] 13:54 ------

2183-04-11 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2183-4-10**] 02:00 PM
   Red tagged study, only brief follow up with one picture.  Study was
   negative for bleed.
 PICC LINE - START [**2183-4-10**] 04:20 PM
   - bleeding again in AM
   - CT angiogram was negative; no IR intervention
   - updated son and daughter
   - PICC placed for access
   - repeat Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-4-10**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-11**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 81 (81 - 106) bpm
   BP: 127/51(70) {93/51(65) - 153/100(106)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    907 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
                                                                    620 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                  1,525 mL
                                                                    450 mL
   Urine:
                                                                  1,525 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -618 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   GEN: appears comfortable, in no acute distress
   SKIN:No rashes or skin changes noted
   HEENT:  L eyelid slightly erythematous and partially shut, not swollen,
   no conjunctival injection, JVP not elevated.
   CHEST: distant breath sounds, lungs clear b/l
   CARDIAC: faint heart sounds, 3/6 systolic murmur, regular
   ABDOMEN: obese, no scars, soft, nontender, normoactive bowel sounds, no
   rebound/guarding
   EXTREMITIES: trace bilateral edema to ankles, warm
   Labs / Radiology
   219 K/uL
   10.8 g/dL
   78 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   20 mg/dL
   108 mEq/L
   139 mEq/L
   31.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2183-4-9**]  10:44 AM
                             [**2183-4-9**]  03:01 PM
                             [**2183-4-9**]  07:59 PM
                             [**2183-4-10**]  01:54 AM
                             [**2183-4-10**]  04:55 AM
                             [**2183-4-10**]  04:18 PM
                             [**2183-4-11**]  03:59 AM
   WBC
   7.0
   7.7
   7.7
   7.8
   Hct
   32.6
   30.7
   33.4
   31.9
   33.6
   33.5
   31.3
   Plt
   232
   208
   228
   219
   Cr
   0.7
   0.8
   0.8
   0.9
   Glucose
   84
   77
   79
   78
   Other labs: PT / PTT / INR:13.5/31.0/1.2, Differential-Neuts:79.2 %,
   Lymph:13.3 %, Mono:4.5 %, Eos:2.4 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mr. [**Known lastname 11319**] is an 88-year-old man with afib not anticoagulated who
   presents with recurrent lower GI bleeding.
   .
   # GI bleed: Recently bled earlier the morning of admission. Still has
   melanotic stools. Bleeding scan showed slow sigmoid bleed. Patient
   received 2 units of pRBCs yesterday, Hct increasing from 30 to 34.
   - will discuss with IR again
   - keep NPO
   - maintain active type & screen
   - large-bored PIVs
   - continue pantoprazole 40 mg IV bid
   - q4h Hct; transfuse to keep Hct around 30 if still has active bleeding
   - continue to hold warfarin, ASA
   - hold diltizaem until active bleeding definitively resolves
   - f/u GI recs
   .
   # Atrial fibrillation: was rate controlled at home, rate 80s
   - continue to hold anticoagulation
   - hold rate control agents given potential for hemodynamic instability
   with GI bled, current normal rate
   .
   # Hypothyroidism:
   - continue home dose of levothyroxine
   .
   # FEN: replete lytes prn / NPO
   # PPX: PPI as above, pneumoboots
   # ACCESS: PIV (18g, 20g)
   # CODE:  Full, discussed
   # CONTACT: [**First Name4 (NamePattern1) **] [**Known lastname 11319**]
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 2852**]
   [x] ICU

2183-04-11 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 yo w/ afib (hx ablation) off anticoag due to likely diverticular
   bleed mid-late [**Month (only) **] at [**Hospital1 **]-[**Location (un) 78**], readmitted there on [**4-6**] w/
   persistent hematochezia. Transferred for poss IR intervention.
   24 Hour Events:
   CT angio yest without bleeding evidence. Pt without complaint.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-4-10**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-11**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 87 (81 - 106) bpm
   BP: 130/71(86) {93/51(65) - 142/100(106)} mmHg
   RR: 9 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    907 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
   IVF:
                                                                    620 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                  1,525 mL
                                                                    700 mL
   Urine:
                                                                  1,525 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -618 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L > R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   219 K/uL
   78 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   20 mg/dL
   108 mEq/L
   139 mEq/L
   31.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2183-4-9**]  10:44 AM
                             [**2183-4-9**]  03:01 PM
                             [**2183-4-9**]  07:59 PM
                             [**2183-4-10**]  01:54 AM
                             [**2183-4-10**]  04:55 AM
                             [**2183-4-10**]  04:18 PM
                             [**2183-4-11**]  03:59 AM
   WBC
   7.0
   7.7
   7.7
   7.8
   Hct
   32.6
   30.7
   33.4
   31.9
   33.6
   33.5
   31.3
   Plt
   232
   208
   228
   219
   Cr
   0.7
   0.8
   0.8
   0.9
   Glucose
   84
   77
   79
   78
   Other labs: PT / PTT / INR:13.5/31.0/1.2, Differential-Neuts:79.2 %,
   Lymph:13.3 %, Mono:4.5 %, Eos:2.4 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   88 yo w/ afib (hx ablation) off anticoag due to likely diverticular
   bleed mid-late [**Month (only) **] at [**Hospital1 **]-[**Location (un) 78**], readmitted there on [**4-6**] w/
   persistent hematochezia. Transferred for poss IR intervention.
   1. Hematochezia- likely diverticular bleed, continues w/ inappropriate
   bump to PRBC transfusion but hemodynamic stability. Tagged RBC scan POS
   for slow diverticular colon bleed but subsequent CT angio negative. IR
   has rec'd expectant mgmt
   -Hct q12 today
   -start po diet and monitor
   2. Afib- rate controlled, off anticoag d/t #1
   -holding rate control for poss hemodynamic instability
   -will resume coumadin today or tomorrow
   3. Hypothyroid- cont Synthroid
   4. Poss L eye conjunctivitis- scant clear discharge
   -prn artificial tears
   5. Basilar crackles- likely atelectasis
   -PT
   -get pt OOB
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-10**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 6181**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   88 yo man presented with LGIB, has had intermittent bleeding, but not
   enough for IR localization.  Has had no bleeding since yesterday and
   doing well.
   Exam: pleasant elderly gentlemen.  Clear o/p, Lungs; clear, CV: irreg,
   s1,s2, abd: soft, ext: 1+ edema
   A/P
   Overall stable with no further bleeding.  Continue  a bowl regiment and
   observation.
   AF: rate controlled
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2183-4-11**] 12:47 ------